US08034811B2
2-(3-Cyano-4-fluoro-benzylamino)-benzoic acid
Prepared by a similar procedure as described for preparation 1A, starting from anthranilic acid and 2-fluoro-5-formylbenzonitrile (Aldrich). 13C-NMR (DMSO-d6) δ 172.1, 161.3, 149.5, 138.7, 134.6, 131.9, 130.2, 121.4, 116.6, 114.2, 114.0, 110.0, 99.8, 44.8.

reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 2-fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
product | 2-(3-Cyano-4-fluoro-benzylamino)-benzoic acid | C(#N)C=1C=C(CNC2=C(C(=O)O)C=CC=C2)C=CC1F | C15H11FN2O2
